US08623862B2
Step 1: Benzyl 4-(trans-2-hydroxycyclopentyl)piperazine-1-carboxylate.
A solution of 0.524 g of benzyl piperazine-1-carboxylate is cooled to 0° C., 0.2 g of 1,2-epoxycyclopentane is added and it is heated at 80° C. for four days. The reaction mixture is concentrated under vacuum and the residue is purified by silica gel chromatography, eluting with EtOAc/MeOH mixture. 0.32 g of the expected compound is obtained.

reactant | benzyl piperazine-1-carboxylate | 0.524 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | 1,2-epoxycyclopentane | 0.2 g | O1C2C1CCC2 | C5H8O
product | Benzyl 4-(trans-2-hydroxycyclopentyl)piperazine-1-carboxylate | 0.32 g | O[C@H]1[C@@H](CCC1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C17H24N2O3
